US06841549B1
5-[6-Amino-8-(2-pyridyl)-9H-9-purinyl]-1-methyl-1,2-dihydro-2-pyridinone
A solution of 150 mg of 5-[6-amino-8-(2-pyridyl)-9H-9-purinyl ]-2-pyridinol, 133 mg of sodium methoxide and 306 μL methyl iodide in 20 mL mixture of methanol and tetrahydrofuran in a ratio of 1/1 was stirred at room temperature for 2 hours and 35 minutes and then at 60° C. for 45 minutes. Ethyl acetate and water were added to the reaction mixture, and this mixture was extracted once with ethyl acetate. The organic layer was washed with brine, and the whole aqueous layer was extracted twice with ethyl acetate. The whole organic layer was dried over magnesium sulfate and filtered, and from the resulting residues, the solvent was evaporated, to give 90 mg of the title compound as brown crystals (58% y.).

reactant | 5-[6-amino-8-(2-pyridyl)-9H-9-purinyl ]-2-pyridinol | 150 mg | NC1=C2N=C(N(C2=NC=N1)C=1C=CC(=NC1)O)C1=NC=CC=C1 | C15H11N7O
reactant | sodium methoxide | 133 mg | C[O-].[Na+]
reactant | methyl iodide | 306 μL | CI | CH3I
reactant | methanol | CO | CH4O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-[6-Amino-8-(2-pyridyl)-9H-9-purinyl]-1-methyl-1,2-dihydro-2-pyridinone | 90 mg, 58% | NC1=C2N=C(N(C2=NC=N1)C=1C=CC(N(C1)C)=O)C1=NC=CC=C1 | C16H13N7O
